US05777110
Synthesis of 5,6-dihydro-3-(2-benzothiazolyl)-1,4,2-oxathiazine (Compound #84)
Methyl 2-benzothiazolecarbodithioate (37 g, 0.16 mol) was converted to 1,4,2-oxathiazine using hydroxylamine hydrochloride (13.2 g) and triethylamine (33 ml) as described in Example 4. The ethyl acetate extract of the product was washed successively with diluted hydrochloric acid (2N), water, 5% sodium hydroxide and water. Evaporation of the solvent left a solid residue which was recrystallized from ethanol/ethyl acetate to 5,6-dihydro-3-(2-benzothiazolyl)-1,4,2-oxathiazine (18.0 g, mp 150°-151° C.) Found C 50.68, H 3.27, N 11.78, C10 H8N2OS2 requires C 50.85, H 3.39, N 11.80.

reactant | Methyl 2-benzothiazolecarbodithioate | 0.16 mol, 37 g | S1C(=NC2=C1C=CC=C2)C(=S)SC | C9H7NS3
reactant | 1,4,2-oxathiazine | O1N=CSC=C1 | C3H3NOS
reactant | hydroxylamine hydrochloride | 13.2 g | Cl.NO
solvent | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
product | 5,6-dihydro-3-(2-benzothiazolyl)-1,4,2-oxathiazine | S1C(=NC2=C1C=CC=C2)C2=NOCCS2 | C10H8N2OS2
